US04375475
Step B. Preparation of Ethyl 5-Acetoxy-7-(2,4-dichlorophenyl)-3-hydroxy-3-methyl-6-heptenoate
A solution of 6-(2,4-dichlorophenyl)-2-oxo-5-hexene-4-yl acetate (1.3 g, 4.3 mmole) and ethyl bromoacetate (0.47 ml, 4.2 mmole) in dry THF (10 ml) was added dropwise to a vigorously stirred slurry of activated zinc dust (490 mg, 7.5 mmole), cuprous bromide (29 mg, 0.2 mmole), diethylaluminum chloride (25% solution in toluene; 1.72 ml, 4.3 mmole) and dry THF (5 ml) under N2 at 20° C. Stirring was continued for 5 hours before quenching with pyridine (3.5 ml). After the addition of water (50 ml) the mixture was extracted with ether (3×80 ml). The combined ether extracts were washed with 1 N HCl (2×25 ml), H2O (2×50 ml) and brine, then dried (MgSO4), filtered and evaporated leaving the crude title compound as a pale yellow oil (1.2 g); pmr (CDCl3) δ1.28 (3 H, t), 1.33 (3H, t), 2.10 (3H, s).

reactant | 6-(2,4-dichlorophenyl)-2-oxo-5-hexene-4-yl acetate | 4.3 mmole, 1.3 g | C(C)(=O)OC(CC(C)=O)C=CC1=C(C=C(C=C1)Cl)Cl | C14H14Cl2O3
reactant | ethyl bromoacetate | 4.2 mmole, 0.47 ml | BrCC(=O)OCC | C4H7BrO2
reactant | diethylaluminum chloride | 4.3 mmole, 1.72 ml | [Cl-].C(C)[Al+]CC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | zinc | 7.5 mmole, 490 mg | [Zn] | Zn
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 5-Acetoxy-7-(2,4-dichlorophenyl)-3-hydroxy-3-methyl-6-heptenoate | 1.2 g | C(C)(=O)OC(CC(CC(=O)OCC)(C)O)C=CC1=C(C=C(C=C1)Cl)Cl | C18H22Cl2O5
